US05051413
E-2-formylamino-5-diethylphosphono-5-methyl-3-pentenoic acid ethyl ester ishydrolysed with 4.35N hydrochloric acid in the manner described in Example 11. E-2-amino-5-methyl-5-phosphono-3-pentenoic acid is isolated in the form of an amorphous white solid mass. 1H-NMR (D2O): 1.05 (dd,3H, CH3); 2.45 (m, 1H, C(5)--H); 4.33 (d, 2H, C(2)--H); 5.5 and 5.9 (2m, 2H, C(3)--H and C(4)--H).

reactant | E-2-formylamino-5-diethylphosphono-5-methyl-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C\C(C)P(=O)(OCC)OCC)NC=O)=O | C13H24NO6P
reactant | hydrochloric acid | 4.35N | Cl | ClH
product | E-2-amino-5-methyl-5-phosphono-3-pentenoic acid | NC(C(=O)O)\C=C\C(P(=O)(O)O)C | C6H12NO5P
